US07977481B2
{5-[2-(3-Hydroxymethyl-phenylamino)-pyrimidin-4-yl]-thiophen-2-yl}-acetic acid 3-hydroxy-2-hydroxymethyl-2-methyl-propyl ester (717 mg, 1.6 mmol) was dissolved in 30 mL of THF and 1N sodium hydroxide solution (3.5 mL, 3.5 mmol). The mixture was stirred overnight, quenched with acetic acid, and concentrated. The crude product was triturated with water to give 496 mg of {5-[2-(3-Hydroxymethyl-phenylamino)-pyrimidin-4-yl]-thiophen-2-yl}-acetic acid as an orange solid (1.45 mmol, 90%).

reactant | {5-[2-(3-Hydroxymethyl-phenylamino)-pyrimidin-4-yl]-thiophen-2-yl}-acetic acid 3-hydroxy-2-hydroxymethyl-2-methyl-propyl ester | 1.6 mmol, 717 mg | OCC(COC(CC=1SC(=CC1)C1=NC(=NC=C1)NC1=CC(=CC=C1)CO)=O)(C)CO | C22H25N3O5S
reactant | sodium hydroxide | 3.5 mmol, 1N, 3.5 mL | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | {5-[2-(3-Hydroxymethyl-phenylamino)-pyrimidin-4-yl]-thiophen-2-yl}-acetic acid | 1.45 mmol, 496 mg, 90% | OCC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC=C(S1)CC(=O)O | C17H15N3O3S
